US08003677B2
3d: tert-Butyl 5-[5-(3-methylbutylcarbamoyl)thiazol-2-yl]-3,4,5,6-tetrahydro-1H-pyrrolo-[3,4-c]pyrrole-2-carboxylate
tert-Butyl 5-(5-carboxythiazol-2-yl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrole-2-carboxylate (186 mg, 0.55 mmol), isoamylamine (0.42 ml, 2.6 mmol), triethylamine (153 μl, 1.1 mmol) and HATU (209 mg, 0.55 mmol) were stirred at room temperature in 20 ml of DMF for 2 h. The solvent was evaporated off, and the residue was admixed with water and ethyl acetate. The organic phase was removed and concentrated, and the crude product was converted further directly. Yield: 225 mg, M+H+: 407.20.

reactant | tert-Butyl 5-(5-carboxythiazol-2-yl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrole-2-carboxylate | 0.55 mmol, 186 mg | C(=O)(O)C1=CN=C(S1)N1CC2=C(C1)CN(C2)C(=O)OC(C)(C)C | C15H19N3O4S
reactant | isoamylamine | 2.6 mmol, 0.42 ml | C(CC(C)C)N | C5H13N
reactant | triethylamine | 1.1 mmol, 153 μl | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.55 mmol, 209 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | tert-Butyl 5-[5-(3-methylbutylcarbamoyl)thiazol-2-yl]-3,4,5,6-tetrahydro-1H-pyrrolo-[3,4-c]pyrrole-2-carboxylate | CC(CCNC(=O)C1=CN=C(S1)N1CC2=C(C1)CN(C2)C(=O)OC(C)(C)C)C | C20H30N4O3S
